Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My life just went right over the canyon, basically"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per initial inpatient note: 
___ is a ___ year old ___ female with history of 
depression who presented to the ___ ED on ___ for worsening 
depression status post suicide attempt by hanging herself with a 
belt one week ago.

On admission to ___, patient reports 2 months of worsening 
depression, hopelessness and anxiety.  She reports multiple 
stressors including working at a job she hates (___ in 
___ the customers can be almost abusive at times), 
dire financial situation (has not been eating for almost 3 weeks 
secondary to no money) and having limited success with her 
desired career in ___.  She states that her depression and 
stress has become so unbearable that last week she tried to ___ 
her own life by hanging herself with a belt.  Midway through the 
attempt she stopped herself due to the physical pain and fear of 
what she was doing.  She was glad that she was alive afterwards; 
did not present to the hospital.  She states that she is a very 
religious person (currently identifies as ___, attempting 
to switch to Orthodoxy) and that suicide is one of the worst 
sins.  She feels conflicted in attempting to reconcile her 
depression with the fact that suicide is not allowed in her 
faith.  She does not feel like God has abandoned her, but rather 
that she has let God down with her suicide attempt.  She is 
worried that her suicide attempt will prevent her from being 
able to convert to Orthodoxy.  Today prior to presentation she 
had a "huge panic attack" about her life stressors and brought 
herself to the ___ ED. 

The patient reports low mood mostly secondary to her life 
stressors as well as decreased sleep ___ hours/night), low 
energy, guilt regarding her suicide attempt, worthlessness and 
minimal hope.  She states that she has several close friends in 
___ and feels well supported by her ___ community.  She 
is on good terms with her family however none live locally; her 
sister lives in ___ and ___ parents and brother live in 
___.  She has not told her parents that she is in the 
hospital.  She denies current SI, HI, AVH or symptoms of mania.  
The patient states that while she is on the unit she wants to 
speak with the Chaplain and social work and is hesitant about 
starting medications.

 
Past Medical History:
- no PCP
- reports that she injured her "rotator cuff" at work lifting 
heavy things, was seen in the ED ___
- s/p MVA ___ years ago, denies loc reports that she fractured her 
knee and hurt her back
- Dysmenorrhea
 
Social History:
The patient reports that she was born and raised about 40 km 
southwest of ___ and ___ an a younger sister and 
brother. Her sister lives in ___ with her 
grandmother and is a college student. Her brother lives with her 
parents in ___. Her father was born in ___ and moved to 
___ ___ years ago and teaches ___ to nursing students.  
Her mother is ___ and is a ___. She describes an 
"unhappy childhood...I was the strange one in he family I was 
miserable from ages ___ She denies hx of physical or sexual 
abuse and finished school in ___ and moved to the ___, to 
attend college in the ___ of ___. She reports that it 
was a school her parents could afford and she was to live with 
her elderly grandmother and to help care for her. Her sister is 
now living with her grandmother in ___ and attending the 
same college. She graduated in ___ with a degree in play 
writing. After college remained in ___ for a year, 
worked as a ___ to save money and moved to ___ 5 months 
ago. She felt that ___
offered her more of an opportunity to work in ___ but has 
been working fulltime as a ___ at ___ as a ___. 
She currently lives with 2 roommates both of whom are full time 
students @ ___.  She reports that she is currently a ___ citizen.
 
Family History:
Sister with bipolar disorder.  
Denies family history of suicide. 
One uncle with ETOH use disorder.
 
Physical Exam:
Upon admission: 
VS:  T: 98.3 HR: 84 BP: 127/83 resp: 16 SpO2: 100% on RA weight: 
120 lbs
Heart: regular rate and rhythm, normal S1 and S2, no murmurs 
appreciated
Lungs: clear to auscultation bilaterally, no wheezes, rhonchi or 
crackles
Abdomen: ___ to palpation, normoactive bowel sounds x4, 
___, no guarding, masses or rebound
Extremities: warm and well perfused, no edema in bilateral lower 
extremities
Neuro: pupils reactive to direct and near ___ EOMI; 
muscles of facial expression intact and symmetric bilaterally; 
___ symmetric; light touch diffusely intact; 
strength ___ throughout UE and ___

___ STATUS EXAM: 
 *Appearance: appears stated age, sitting in chair, wearing 
hospital gown w/ blanket draped over shoulders, eyes appear red 
and swollen, hair disheveled
 *Behavior: cooperative with interview, moderate eye contact
 *Speech: regular volume, rate and rhythem
 *Language: fluent in ___
 *Mood/Affect: "depressed" / dysphoric, congruent with stated 
mood, tearful at times
 *Thought process / *associations: linear, ___, no
loosening of associations 
 *Thought Content: denies SI, HI, AVH
  *Judgment and Insight: limited/fair

Cognition: 
 *Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): performs MOYB correctly
 *Orientation:  oriented to person, ___, month/day/year
 *Memory: ___ immediate recall, ___ at five minutes
 *Fund of knowledge: appears appropriate for level of education

Neurological:  
 *station and gait: within normal limits
 *tone and strength: within normal limits

 
Pertinent Results:
___ 01:10PM BLOOD ___ 
___ Plt ___
___ 01:10PM BLOOD ___ 
___ Im ___ 
___
___ 01:10PM BLOOD Plt ___
___ 01:10PM BLOOD ___ 
___
___ 01:10PM BLOOD ___ 
___
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout.  She was  
___.  There were no acute safety issues during this  
hospitalization.

LEGAL: ___
PSYCHIATRIC:
#Depression: Ms. ___ reports a long standing history of 
depression and anxiety that acutely worsened with an aborted 
suicide attempt a week prior. Upon interview patient reports 
worsening depression, anxiety, trouble sleeping, and feelings of 
worthlessness in the setting of many psychosocial stressers 
including financial pressure, lost internship, minimal access to 
food, lack of fulfilling job. Mental status exam notable for 
dysphoric, at times tearful affect and no reported of any 
current thoughts of suicide. The patient's current presentation 
in most consistent with major depressive disorder and 
unspecified anxiety disorder.  Given her ongoing symptoms of 
depression, the team and patient decided to start an 
antidepressant medication. She was started on Zoloft 25mg and 
titrated up to 50mg. For sleep, she was started on 15mg 
mirtazapine at bedtime. She tolerated the medication well and 
denied any side effects. 

During her admission she was seen frequently by the chaplain and 
seen by her outside priest. She noted that it was very 
therapeutic and helpful to have her spiritual needs met. Over 
the course of her admission, ___ affect brightened. She was 
able to reach out to her family who expressed support and 
concern.  She was signed up for ___ Health and placed in 
contact with a primary care physician.  Upon discharge she 
denied any suicidal or self injurious thoughts. She was 
determined to be safe for discharge on ___. 

GENERAL MEDICAL CONDITIONS:
#No acute or chronic medical conditions

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was inconsistent in her group 
participation.   She was encouraged to participate in unit’s 
groups therapy  opportunities. Initially, she was very isolative 
and was sleeping in her room through most of the day.  She 
eventually became more active in the milieu particularly with 
other patients around her same age. Use of coping skills and 
mindfulness/relaxation methods were encouraged.

#) COLLATERAL CONTACTS:
Pt has no outside treaters. She does not have a primary care 
physician in state, or one that she has seen in a while. 

#) FAMILY INVOLVEMENT:
___ requested we do not contact her parents. They live in 
___ and she has not been that open about how she is doing.  
Likewise, she said there was a cultural divide with mental 
health and she wanted to be the one who spoke with them first. 
She did reach out to her parents during her stay and they 
expressed their concern and support. 

#) INTERVENTIONS:
 - Medications: Started Remeron 15mg to help with sleep as well 
as Zoloft 50mg 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy
 - Coordination of aftercare with setting up ___ Health and 
creating appointments for after care. 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting Remeron & 
Sertraline, and risks and benefits of possible alternatives, 
including not taking the medications, with this patient. We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team, and all questions 
were answered appropriately.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT:
Ms. ___ is at low imminent risk of harm to self. 

#) Chronic/Static Risk Factors:
- Chronic mental illness, aborted suicide attempt, family 
history of mental illness, financial trouble, recent move 

#) Modifiable Risk Factors:
- Suicidal ideation - this risk was mitigated by starting 
antidepressants and having her speak to her priest
- Trouble sleeping - this risk was mitigated by starting Remeron 
and encouraging ___ to talk to her roommates about setting 
limits at night when she gets back to her apartment
- No outside providers - this risk was mitigated by applying for 
___ Health and setting up appointments for followup with the 
___
- Limited coping skills - this risk was mitigated through groups 
focused on productive coping skills
- Limited access to food - this risk was mitigated by providing 
resources, including a list of food pantries upon discharge

#) Protective Factors:
- ___ nature - pt motivated to make changes in her life 
and continue with therapy 
- Medication compliant - she has no issues with taking her 
medications 
- ___ viewpoint - pt motivated to continue in 
theatre and pursue her passion 
- No history of substance use disorder - pt has no history of 
drug alcohol abuse
- Connection to the community - pt is well liked at her current 
job and supported there 
- Family support - pt was able to reach out to family who 
supported her through this crisis 

PROGNOSIS:
Good - pt has multiple protective factors.  She is smart, 
motivated, and willing to engage in aftercare. 

 
Medications on Admission:
None 
 
Discharge Medications:
1. Mirtazapine 15 mg PO QHS 
2. Sertraline 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder
Unspecified anxiety disorder

 
Discharge Condition:
     Exam:
  *VS:  BP:106/61   HR:76  temp:98.0   resp:16   O2 sat:100%  
Neurological:
  *Gait- steady, no truncal ataxia, normal stance and posture. 
  *Cranial Nerves - grossly intact  
Cognition: 
 Wakefulness/alertness: alert, awake
 *Attention (digit span, MOYB): maintains appropriate attention
throughout exam 
 *Orientation: person, place, date, situation 
 *Memory: recalls aspects of past few days
 *Fund of knowledge: appropriate for age and education level
 *Speech: normal rate, rhythm, prosody
 *Language: fluent ___, no paraphasic errors 
 
Mental Status:
 *Appearance: thin, Caucasian female, appears stated age, good
grooming, wearing brown knit hat, hospital johnnys 
 Behavior: calm, cooperative, engaged in interview, good eye
contact
 *Mood and Affect: 'okay'; dysphoric, constricted, full range,
congruent with mood 
 *Thought process / *associations:  linear, logical,
___, associations intact
 *Thought Content: Denies SI/HI/AVH; no evidence of delusions or
paranoia, does not appear to be responding to internal stimuli
 *Judgment and Insight: poor/poor

 
Discharge Instructions:
You were hospitalized at ___ for depression and anxiety.  We 
adjusted your medications, and you are now ready for discharge.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___